* File: BUF2X8.pex.netlist.pex
* Created: Thu Jul 13 08:21:50 2017
* Program "Calibre xRC"
* Version "v2017.2_28.22"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_BUF2X8_D_VDD 1 8 12 22 30 31 32
c24 32 0 0.281657f
c25 31 0 0.306431f
c26 30 0 0.217354f
c27 26 0 0.0701213f
c28 24 0 0.0701213f
c29 22 0 0.0701213f
c30 12 0 0.271502f
c31 8 0 0.278238f
c32 4 0 0.239598f
c33 1 0 0.487743f
r34 25 32 0.184167
r35 25 26 0.0120155
r36 23 31 0.184167
r37 23 24 0.0120155
r38 20 30 0.17
r39 20 22 0.0120155
r40 16 26 0.0329425
r41 13 24 0.0329425
r42 12 26 0.0329425
r43 9 22 0.0329425
r44 8 24 0.0329425
r45 4 22 0.0329425
r46 1 16 0.153
r47 1 12 0.1785
r48 1 13 0.068
r49 1 8 0.1275
r50 1 9 0.1275
r51 1 4 0.068
.ends

.subckt PM_BUF2X8_D_GND 1 5 6 7 23 25 31
c16 31 0 0.485518f
c17 26 0 0.0701213f
c18 25 0 0.271502f
c19 23 0 0.0701213f
c20 21 0 0.239598f
c21 7 0 0.332137f
c22 6 0 0.298459f
c23 5 0 0.24839f
c24 1 0 0.428771f
r25 25 26 0.0329425
r26 24 26 0.0329425
r27 21 23 0.0329425
r28 20 23 0.0329425
r29 16 26 0.0120155
r30 8 23 0.0120155
r31 7 16 0.184167
r32 6 12 0.184167
r33 5 8 0.17
r34 1 12 0.0120155
r35 1 31 0.0329425
r36 1 34 0.0329425
r37 1 24 0.017
r38 1 25 0.1785
r39 1 34 0.068
r40 1 31 0.2635
r41 1 20 0.1275
r42 1 21 0.068
.ends

.subckt PM_BUF2X8_N$2 2 5 7 11 15 17 21 25 27 28 29 30 37 42
c46 42 0 0.241614f
c47 37 0 0.0458594f
c48 30 0 0.150291f
c49 29 0 0.0801491f
c50 28 0 0.0836608f
c51 27 0 0.461975f
c52 25 0 0.610902f
c53 21 0 0.552923f
c54 17 0 0.130517f
c55 15 0 0.524881f
c56 11 0 0.552923f
c57 7 0 0.152817f
c58 5 0 0.523691f
c59 2 0 0.357319f
r60 40 42 0.443889
r61 37 40 0.0377999
r62 37 39 0.0377999
r63 37 38 7
r64 27 38 61.1111
r65 27 28 7.46483
r66 23 30 14.6202
r67 23 25 170.833
r68 19 30 14.6202
r69 19 21 137.5
r70 18 29 3.91908
r71 17 30 0.139
r72 17 18 27.7778
r73 13 29 8.95055
r74 13 15 125
r75 9 29 8.95055
r76 9 11 137.5
r77 8 28 7.46483
r78 7 29 3.91908
r79 7 8 27.7778
r80 3 28 5.81114
r81 3 5 125
r82 2 39 0.387222
.ends

.subckt PM_BUF2X8_OUT 2 7 8 16 17 27
c27 27 0 0.257867f
c28 17 0 0.258173f
c29 16 0 0.217094f
c30 8 0 0.024228f
c31 7 0 0.121299f
c32 2 0 0.221251f
r33 23 27 0.0384504
r34 17 27 0.0442708
r35 17 23 0.0330556
r36 13 17 0.273889
r37 10 16 0.193611
r38 9 12 0.151111
r39 9 10 0.00499195
r40 8 12 0.0425
r41 7 13 0.0474919
r42 7 8 0.132222
r43 3 12 0.00499195
r44 2 3 0.410833
.ends

.subckt PM_BUF2X8_IN 3 5 7 8 10 12 14 17
c19 17 0 0.080198f
c20 14 0 0.444715f
c21 10 0 0.245173f
c22 8 0 0.235505f
c23 5 0 0.237729f
c24 3 0 1.03446f
r25 17 20 7
r26 14 20 30.5556
r27 14 15 37.5
r28 10 12 45.8333
r29 9 15 1.46822
r30 8 10 13.9682
r31 8 9 54.1667
r32 5 15 12.5
r33 5 7 45.8333
r34 1 14 18.75
r35 1 3 289.583
.ends

