* File: BUX6.pex.netlist
* Created: Mon Jun  5 11:30:28 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* 
.include "BUX6.pex.netlist.pex"
.subckt BUX6  D_VDD D_GND OUT IN
* 
* IN	IN
* OUT	OUT
* D_GND	D_GND
* D_VDD	D_VDD
M_ENM1 N_N$2_M_ENM1_d N_IN_M_ENM1_g N_D_GND_M_ENM1_s D_GND enm L=6e-07 W=8e-07
+ AD=1.37e-12 AS=6.4e-13 PD=4.8e-06 PS=2.08e-06 NRD=2.14062 NRS=1
M_ENM2 N_OUT_M_ENM2_d N_N$2_M_ENM2_g N_D_GND_M_ENM1_s D_GND enm L=6e-07
+ W=1.2e-06 AD=1.04e-12 AS=9.6e-13 PD=2.53333e-06 PS=3.12e-06 NRD=0.722222
+ NRS=0.666667
M_ENM2@7 N_OUT_M_ENM2_d N_N$2_M_ENM2@7_g N_D_GND_M_ENM2@7_s D_GND enm L=6e-07
+ W=2.4e-06 AD=2.08e-12 AS=1.56e-12 PD=5.06667e-06 PS=3.7e-06 NRD=0.361111
+ NRS=0.270833
M_ENM2@6 N_OUT_M_ENM2@6_d N_N$2_M_ENM2@6_g N_D_GND_M_ENM2@7_s D_GND enm L=6e-07
+ W=2.4e-06 AD=1.56e-12 AS=1.56e-12 PD=3.7e-06 PS=3.7e-06 NRD=0.270833
+ NRS=0.270833
M_ENM2@5 N_OUT_M_ENM2@6_d N_N$2_M_ENM2@5_g N_D_GND_M_ENM2@5_s D_GND enm L=6e-07
+ W=2.4e-06 AD=1.56e-12 AS=1.56e-12 PD=3.7e-06 PS=3.7e-06 NRD=0.270833
+ NRS=0.270833
M_ENM2@4 N_OUT_M_ENM2@4_d N_N$2_M_ENM2@4_g N_D_GND_M_ENM2@5_s D_GND enm L=6e-07
+ W=2.4e-06 AD=1.56e-12 AS=1.56e-12 PD=3.7e-06 PS=3.7e-06 NRD=0.270833
+ NRS=0.270833
M_ENM2@3 N_OUT_M_ENM2@4_d N_N$2_M_ENM2@3_g N_D_GND_M_ENM2@3_s D_GND enm L=6e-07
+ W=2.4e-06 AD=1.56e-12 AS=2.08e-12 PD=3.7e-06 PS=5.06667e-06 NRD=0.270833
+ NRS=0.361111
M_ENM2@2 N_OUT_M_ENM2@2_d N_N$2_M_ENM2@2_g N_D_GND_M_ENM2@3_s D_GND enm L=6e-07
+ W=1.2e-06 AD=1.44e-12 AS=1.04e-12 PD=4.8e-06 PS=2.53333e-06 NRD=1 NRS=0.722222
M_EPM1 N_N$2_M_EPM1_d N_IN_M_EPM1_g N_D_VDD_M_EPM1_s N_D_VDD_M_EPM1_b epm
+ L=6e-07 W=1.6e-06 AD=1.92e-12 AS=1.28e-12 PD=5.6e-06 PS=3.04e-06 NRD=0.75
+ NRS=0.5
M_EPM2 N_OUT_M_EPM2_d N_N$2_M_EPM2_g N_D_VDD_M_EPM1_s N_D_VDD_M_EPM1_b epm
+ L=6e-07 W=2.4e-06 AD=2.08e-12 AS=1.92e-12 PD=4.13333e-06 PS=4.56e-06
+ NRD=0.361111 NRS=0.333333
M_EPM2@7 N_OUT_M_EPM2_d N_N$2_M_EPM2@7_g N_D_VDD_M_EPM2@7_s N_D_VDD_M_EPM1_b epm
+ L=6e-07 W=4.8e-06 AD=4.16e-12 AS=3.12e-12 PD=8.26667e-06 PS=6.1e-06
+ NRD=0.180556 NRS=0.135417
M_EPM2@6 N_OUT_M_EPM2@6_d N_N$2_M_EPM2@6_g N_D_VDD_M_EPM2@7_s N_D_VDD_M_EPM1_b
+ epm L=6e-07 W=4.8e-06 AD=3.12e-12 AS=3.12e-12 PD=6.1e-06 PS=6.1e-06
+ NRD=0.135417 NRS=0.135417
M_EPM2@5 N_OUT_M_EPM2@6_d N_N$2_M_EPM2@5_g N_D_VDD_M_EPM2@5_s N_D_VDD_M_EPM1_b
+ epm L=6e-07 W=4.8e-06 AD=3.12e-12 AS=3.12e-12 PD=6.1e-06 PS=6.1e-06
+ NRD=0.135417 NRS=0.135417
M_EPM2@4 N_OUT_M_EPM2@4_d N_N$2_M_EPM2@4_g N_D_VDD_M_EPM2@5_s N_D_VDD_M_EPM1_b
+ epm L=6e-07 W=4.8e-06 AD=3.12e-12 AS=3.12e-12 PD=6.1e-06 PS=6.1e-06
+ NRD=0.135417 NRS=0.135417
M_EPM2@3 N_OUT_M_EPM2@4_d N_N$2_M_EPM2@3_g N_D_VDD_M_EPM2@3_s N_D_VDD_M_EPM1_b
+ epm L=6e-07 W=4.8e-06 AD=3.12e-12 AS=4.16e-12 PD=6.1e-06 PS=8.26667e-06
+ NRD=0.135417 NRS=0.180556
M_EPM2@2 N_OUT_M_EPM2@2_d N_N$2_M_EPM2@2_g N_D_VDD_M_EPM2@3_s N_D_VDD_M_EPM1_b
+ epm L=6e-07 W=2.4e-06 AD=2.88e-12 AS=2.08e-12 PD=7.2e-06 PS=4.13333e-06
+ NRD=0.5 NRS=0.361111
*
.include "BUX6.pex.netlist.BUX6.pxi"
*
.ends
*
*
