* File: BUX1.pex.netlist.pex
* Created: Mon Jun  5 11:28:06 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_BUX1%D_VDD 1 4 8 24 25
c12 25 0 0.28827f
c13 24 0 0.159967f
c14 21 0 0.0701213f
c15 8 0 0.280659f
c16 4 0 0.426864f
c17 1 0 0.274004f
r18 20 25 0.207778
r19 20 21 0.0120155
r20 17 24 0.17
r21 13 21 0.0329425
r22 8 21 0.0329425
r23 1 17 0.0120155
r24 1 4 0.0329425
r25 1 9 0.0329425
r26 1 13 0.0425
r27 1 8 0.153
r28 1 9 0.102
r29 1 4 0.2295
.ends

.subckt PM_BUX1%N$2 2 5 7 8 11 13 15 19 23 25 30 31 32 33 34 35 41
c47 41 0 0.266549f
c48 35 0 0.170575f
c49 34 0 0.018779f
c50 33 0 0.0836393f
c51 32 0 0.104044f
c52 31 0 0.0826256f
c53 30 0 0.0538315f
c54 25 0 0.056151f
c55 23 0 0.325537f
c56 19 0 0.235844f
c57 15 0 0.245889f
c58 13 0 0.250667f
c59 11 0 0.333795f
c60 8 0 0.580268f
c61 7 0 0.246896f
c62 5 0 0.243022f
c63 2 0 0.186031f
r64 38 39 7
r65 36 41 0.240833
r66 34 38 0.023746
r67 34 35 0.377778
r68 33 36 0.0474919
r69 32 35 0.0474919
r70 32 33 0.113333
r71 30 38 0.023746
r72 30 31 0.1275
r73 26 31 0.0474919
r74 21 23 70.8333
r75 17 19 45.8333
r76 16 25 2.75115
r77 15 21 13.9682
r78 15 16 54.1667
r79 14 39 12.6796
r80 13 17 13.9682
r81 13 14 52.0833
r82 9 25 10.5861
r83 9 11 70.8333
r84 8 25 10.5861
r85 7 39 15.569
r86 7 8 197.917
r87 3 14 12.3991
r88 3 5 45.8333
r89 2 26 0.151111
.ends

.subckt PM_BUX1%D_GND 1 4 5 15 18
c14 18 0 0.431117f
c15 16 0 0.0701213f
c16 15 0 0.267705f
c17 5 0 0.219383f
c18 4 0 0.135431f
c19 1 0 0.279957f
r20 15 16 0.0329425
r21 14 16 0.0329425
r22 10 16 0.0120155
r23 5 10 0.151111
r24 4 6 0.146389
r25 1 6 0.0120155
r26 1 18 0.0329425
r27 1 22 0.0329425
r28 1 14 0.04675
r29 1 15 0.153
r30 1 22 0.0935
r31 1 18 0.23375
.ends

.subckt PM_BUX1%OUT 2 12 15
c22 15 0 0.18421f
c23 12 0 0.118369f
c24 2 0 0.364323f
r25 10 15 0.2975
r26 9 12 0.0425
r27 9 10 0.00499195
r28 7 9 0.00472222
r29 3 7 0.00499195
r30 2 3 0.514722
.ends

.subckt PM_BUX1%IN 3 7 10 13 19
c23 19 0 0.213331f
c24 13 0 0.125158f
c25 7 0 0.790675f
c26 3 0 0.601325f
r27 18 19 1.38889
r28 14 18 13.8889
r29 13 14 7
r30 10 13 0.0802778
r31 5 19 6.3741
r32 5 7 218.75
r33 1 18 6.3741
r34 1 3 164.583
.ends

