* File: BUX2.pex.netlist.pex
* Created: Mon Jun  5 11:28:40 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_BUX2%D_VDD 1 4 8 12 28 29 30
c21 30 0 0.318009f
c22 29 0 0.189802f
c23 28 0 0.25308f
c24 22 0 0.208645f
c25 21 0 0.0701213f
c26 12 0 0.277759f
c27 8 0 0.287346f
c28 4 0 0.436395f
c29 1 0 0.0701213f
r30 22 30 0.236111
r31 20 29 0.236111
r32 20 21 0.0120155
r33 16 28 0.273889
r34 13 21 0.0329425
r35 8 21 0.0329425
r36 1 22 0.0245326
r37 1 12 0.0231307
r38 1 16 0.0120155
r39 1 4 0.0329425
r40 1 9 0.0329425
r41 1 12 0.19975
r42 1 13 0.04675
r43 1 8 0.14875
r44 1 9 0.10625
r45 1 4 0.22525
.ends

.subckt PM_BUX2%N$2 2 5 7 8 11 13 15 19 23 25 27 31 35 37 39 43 47 49 50 51 52
+ 53 58 59 60 61 62 63 69
c74 69 0 0.261494f
c75 63 0 0.114572f
c76 62 0 0.0221428f
c77 61 0 0.0750278f
c78 60 0 0.0960222f
c79 59 0 0.0776401f
c80 58 0 0.0405696f
c81 53 0 0.0522557f
c82 52 0 0.0519507f
c83 51 0 0.0522557f
c84 50 0 0.0519507f
c85 49 0 0.056179f
c86 47 0 0.326905f
c87 43 0 0.238313f
c88 39 0 0.252173f
c89 37 0 0.253299f
c90 35 0 0.33003f
c91 31 0 0.240272f
c92 27 0 0.142259f
c93 25 0 0.145338f
c94 23 0 0.33003f
c95 19 0 0.240272f
c96 15 0 0.149034f
c97 13 0 0.1499f
c98 11 0 0.327862f
c99 8 0 0.565415f
c100 7 0 0.221234f
c101 5 0 0.241972f
c102 2 0 0.182191f
r103 66 67 7
r104 64 69 0.226667
r105 62 66 0.023746
r106 62 63 0.240833
r107 61 64 0.0474919
r108 60 63 0.0474919
r109 60 61 0.108611
r110 58 66 0.023746
r111 58 59 0.118056
r112 54 59 0.0474919
r113 45 47 70.8333
r114 41 43 45.8333
r115 40 53 10.5861
r116 39 45 13.9682
r117 39 40 54.1667
r118 38 52 10.5861
r119 37 41 13.9682
r120 37 38 54.1667
r121 33 53 2.75115
r122 33 35 70.8333
r123 29 52 2.75115
r124 29 31 45.8333
r125 28 51 10.5861
r126 27 53 10.5861
r127 27 28 54.1667
r128 26 50 10.5861
r129 25 52 10.5861
r130 25 26 54.1667
r131 21 51 2.75115
r132 21 23 70.8333
r133 17 50 2.75115
r134 17 19 45.8333
r135 16 49 2.75115
r136 15 51 10.5861
r137 15 16 54.1667
r138 14 67 12.6845
r139 13 50 10.5861
r140 13 14 54.1667
r141 9 49 10.5861
r142 9 11 70.8333
r143 8 49 10.5861
r144 7 67 15.3241
r145 7 8 164.583
r146 3 14 11.8647
r147 3 5 45.8333
r148 2 54 0.141667
.ends

.subckt PM_BUX2%D_GND 1 5 6 7 21 24 30 33
c22 33 0 0.280329f
c23 24 0 0.442897f
c24 22 0 0.0701213f
c25 21 0 0.280329f
c26 16 0 0.208645f
c27 7 0 0.274632f
c28 6 0 0.170541f
c29 5 0 0.203016f
c30 1 0 0.0701213f
r31 28 30 0.068
r32 21 22 0.0329425
r33 20 22 0.0329425
r34 12 22 0.0120155
r35 7 16 0.203056
r36 6 12 0.203056
r37 5 8 0.203056
r38 1 16 0.0245326
r39 1 33 0.0231307
r40 1 8 0.0120155
r41 1 24 0.0329425
r42 1 28 0.0329425
r43 1 33 0.19975
r44 1 20 0.04675
r45 1 21 0.14875
r46 1 30 0.02975
r47 1 24 0.23375
.ends

.subckt PM_BUX2%OUT 3 4 9 10 11 12 23 26 28 31 32
c47 32 0 0.123644f
c48 31 0 0.122426f
c49 28 0 0.0147705f
c50 26 0 0.0472502f
c51 24 0 0.0863516f
c52 23 0 0.110432f
c53 20 0 0.223619f
c54 12 0 0.0345742f
c55 11 0 0.0920331f
c56 10 0 0.0600805f
c57 9 0 0.162315f
c58 4 0 0.0836157f
c59 3 0 0.0836308f
r60 27 32 0.160556
r61 27 28 0.0359928
r62 23 25 0.0520353
r63 23 24 0.0265353
r64 21 31 0.160556
r65 20 28 0.0359928
r66 20 25 0.184167
r67 17 26 0.0359928
r68 17 24 0.0708333
r69 13 26 0.0359928
r70 12 21 0.0474919
r71 11 28 0.00935391
r72 11 12 0.273889
r73 9 26 0.00935391
r74 9 10 0.273889
r75 5 10 0.0474919
r76 4 13 0.146389
r77 3 5 0.146389
.ends

.subckt PM_BUX2%IN 3 7 10 13 18
c24 18 0 0.212777f
c25 13 0 0.10889f
c26 7 0 0.638628f
c27 3 0 0.47767f
r28 14 18 15.2778
r29 13 14 7
r30 10 13 0.085
r31 5 18 6.3741
r32 5 7 172.917
r33 1 18 6.3741
r34 1 3 127.083
.ends

